US05143923
N-(1-Methylethyl)-N-[3-(1-(4-fluorobenzoyl)-4-piperidinyl)propyl]-1,2-benzisoxazole-3-carboxamide hydrochloride hemihydrate
To a solution of N-(1-methylethyl)-N-(3-hydroxypropyl)-1,2-benzisoxazole-3-carboxamide (7.80 g), triethylamine (3.05 g), and toluene (200 ml), under a nitrogen atmosphere at 0° C., methanesulfonyl chloride (3.40 g), was added rapidly and the mixture was stirred at 0° C. After 35 mins, 4-(4-fluorobenzoyl)piperidine hydrochloride (7.95 g) and triethylamine (8.71 g) were added, and the mixture was heated under reflux for 16 hrs. The reaction mixture was washed with 10% sodium hydroxide, water, and brine, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was chromatographed on silica gel, eluting with 5 to 10% methanol in ethyl acetate. The appropriate fractions were collected and evaporated. A solution of the residue in methanol was acidified with hydrogen chloride-ethanol solution and diluted with ether. The mixture was refrigerated, and the solid was collected. Recrystallization of the solid from ethanol/ethyl acetate afforded 1.50 g (10.2%) of product, mp 177°-179° C.

reactant | N-(1-methylethyl)-N-(3-hydroxypropyl)-1,2-benzisoxazole-3-carboxamide | 7.80 g | CC(C)N(C(=O)C1=NOC2=C1C=CC=C2)CCCO | C14H18N2O3
reactant | methanesulfonyl chloride | 3.40 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 7.95 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | triethylamine | 8.71 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 3.05 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1-Methylethyl)-N-[3-(1-(4-fluorobenzoyl)-4-piperidinyl)propyl]-1,2-benzisoxazole-3-carboxamide hydrochloride hemihydrate | 1.50 g, 10.2% | O.Cl.CC(C)N(C(=O)C1=NOC2=C1C=CC=C2)CCCC2CCN(CC2)C(C2=CC=C(C=C2)F)=O.CC(C)N(C(=O)C2=NOC1=C2C=CC=C1)CCCC1CCN(CC1)C(C1=CC=C(C=C1)F)=O.Cl | InChI=1S/2C26H30FN3O3.2ClH.H2O/c2*1-18(2)30(26(32)24-22-7-3-4-8-23(22)33-28-24)15-5-6-19-13-16-29(17-14-19)25(31)20-9-11-21(27)12-10-20;;;/h2*3-4,7-12,18-19H,5-6,13-17H2,1-2H3;2*1H;1H2
